US07008950B1
1′-Benzyl-5-(4-methoxybenzyloxy)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]
Sodium hydride (60% liquid paraffin dispersion, 134.6 mg, 3.37 mmol) was added to a solution of 1′-benzyl-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol (1.01 g. 2.98 mmol) in N,N-dimethylformamide (15 mL) at 0° C., and the mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was added 4-methoxybenzyl chloride (584.9 mg, 3.43 mmol) and the mixture was stirred for further 30 minutes at room temperature. The reaction mixture was poured into water, and extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain the title compound (1.15 g, yield 85%).

reactant | Sodium hydride | 3.37 mmol, 134.6 mg | [H-].[Na+]
reactant | 1′-benzyl-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol | 2.98 mmol, 1.01 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C(=C(C(=C1C)C)O)C | C22H27NO2
reactant | 4-methoxybenzyl chloride | 3.43 mmol, 584.9 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1′-Benzyl-5-(4-methoxybenzyloxy)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] | 1.15 g, yield 85% | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C(=C(C(=C1C)C)OCC1=CC=C(C=C1)OC)C | C30H35NO3
